US05302607
1.1 Preparation of 1-[benzo-1,2,3-thiadiazole-7-carbonyloxymethyl]-1-phenylcyclopropane
A solution of 6.7 g of benzo-1,2,3-thiadiazole-7-carboxylic acid chloride in 33 ml of dichloromethane is added dropwise at a maximum of 15° C., with cooling, to a solution of 5.0 g of 1-phenylcyclopropanemethanol, 6.1 ml of triethylamine and 200 mg of 4-dimethylaminopyridine in 50 ml of dichloromethane. The mixture is stirred overnight at room temperature until the reaction is complete, dichloromethane and ice-water are added, the aqueous phase is extracted with dichloromethane, and the organic phase is washed with water and NaCl solution, dried over Na2SO4 and concentrated by evaporation. The residue is purified on silica gel (hexane-ethyl acetate 1:1) and the product obtained is recrystallised from diethyl ether/hexane. 7.5 g of crystals having a melting point of 55°-57° C. are obtained.

reactant | benzo-1,2,3-thiadiazole-7-carboxylic acid chloride | 6.7 g | S1N=NC2=C1C(=CC=C2)C(=O)Cl | C7H3ClN2OS
reactant | 1-phenylcyclopropanemethanol | 5.0 g | C1(=CC=CC=C1)C1(CC1)CO | C10H12O
reactant | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-[benzo-1,2,3-thiadiazole-7-carbonyloxymethyl]-1-phenylcyclopropane | S1N=NC2=C1C(=CC=C2)C(=O)OCC2(CC2)C2=CC=CC=C2 | C17H14N2O2S
